US04769369
Trans-6-[2-(4-methoxyphenyl)ethenyl]-2-(2-morpholinoethyl)phthalazin-1(2H)-one hydrobromide
6-Bromo-2-(2-morpholinoethyl)phthalazin-1(2H)-one (10.1 gm, 0.03 mole) (prepared as in Example I, except that 2-morpholinoethyl chloride hydrochloride was substituted for the 2-(diisopropylamino)ethyl chloride hydrochloride) was stirred into 16 ml DMSO plus 16 ml acetonitrile. To the resulting mixture was added 4.5 gm 4-methoxystyrene (0.033 mole), 0.1 gm tri(o-tolyl)phosphine, and 0.02 gm palladium acetate. The reaction mixture was stirred at reflux (95°-100° C.) for 24 hours. Allowed to cool to about 60° C. and diluted with 60 ml of isopropanol. Stirred for an hour, filtered, washed to colorless washings with isopropanol and dried. The product weighed 11.9 gm. After recrystallization from 40 ml ethanol plus 30 ml water the product weighed 9.2 gm and melted at 254°-256° C.

reactant | 6-Bromo-2-(2-morpholinoethyl)phthalazin-1(2H)-one | 0.03 mole, 10.1 gm | BrC=1C=C2C=NN(C(C2=CC1)=O)CCN1CCOCC1 | C14H16BrN3O2
reactant | 2-morpholinoethyl chloride hydrochloride | Cl.O1CCN(CC1)CCCl
reactant | 2-(diisopropylamino)ethyl chloride hydrochloride | Cl.C(C)(C)N(CCCl)C(C)C
reactant | 4-methoxystyrene | 0.033 mole, 4.5 gm | COC1=CC=C(C=C)C=C1 | C9H10O
reactant | tri(o-tolyl)phosphine | 0.1 gm | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | isopropanol | 60 ml | C(C)(C)O | C3H8O
catalyst | palladium acetate | 0.02 gm | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 16 ml | C(C)#N | C2H3N
solvent | DMSO | 16 ml | CS(=O)C | C2H6OS
product | Trans-6-[2-(4-methoxyphenyl)ethenyl]-2-(2-morpholinoethyl)phthalazin-1(2H)-one hydrobromide | Br.COC1=CC=C(C=C1)/C=C/C=1C=C2C=NN(C(C2=CC1)=O)CCN1CCOCC1 | InChI=1S/C23H25N3O3.BrH/c1-28-21-7-4-18(5-8-21)2-3-19-6-9-22-20(16-19)17-24-26(23(22)27)11-10-25-12-14-29-15-13-25;/h2-9,16-17H,10-15H2,1H3;1H/b3-2+;
